* Input stage, split supply, gain 3: frequency response at the PCM1808 input
.include opamp_tl072.cir
.include input_stage.cir

Vbat_pos bpos 0 DC 9.0
Rbat_pos bpos vpos 2.0
Vbat_neg 0 bneg DC 9.0
Rbat_neg bneg vneg 2.0
Vin in 0 DC 0 AC 1
Xstage in adc vpos vneg input_stage_split params: rpot=2000
Rload adc 0 60000

.control
set noaskquit
set filetype=ascii
ac dec 50 1 1meg
write ac.raw v(adc)
quit
.endc

.end
