* Input stage, split supply, 9.0 V batteries: 1.5 V peak at 1000 Hz with gain 11
.include opamp_tl072.cir
.include input_stage.cir

Vbat_pos bpos 0 DC 9.0
Rbat_pos bpos vpos 2.0
Vbat_neg 0 bneg DC 9.0
Rbat_neg bneg vneg 2.0
Vin in 0 DC 0 SIN(0 1.5 1000)
Xstage in adc vpos vneg input_stage_split params: rpot=10000
Rload adc 0 60000

.control
set noaskquit
set filetype=ascii
tran 5u 10m 0 5u
write tran.raw v(in) v(adc) v(vpos) v(vneg) v(xstage.inp) v(xstage.outa) v(xstage.outb)
quit
.endc

.end
